Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
amlodipine / Amoxicillin / Benadryl / Erythromycin Base / 
potassium / lisinopril / metoprolol / Plavix / felodipine
 
Attending: ___
 
Chief Complaint:
Shortness of breath and pain
 
Major Surgical or Invasive Procedure:
None

___: Coronary artery bypass graft x4, left internal mammary
artery to left anterior descending artery, saphenous vein graft 
to right coronary artery, and saphenous vein sequential graft to 
ramus and obtuse marginal arteries.

 
History of Present Illness:
___ year old male with a history of COPD and multile episodes of 
pneumonia since the begining of the year has complaints of 
worsening dyspnea on exertion over the past few months. He had a 
recent stress test that revealed inferoapical septal ischemia 
and a mildly decreased LVEF of 46%. With these findings he was 
referred for a cardiac catheterization. Upon catheterization he 
was found to have three vessel disease.He underwent CABGx4 10 
days ago and was discharged to ___ on ___. He was 
seen in the ED earlier today
for complants of shortness of breath and pain. In the ED his 
painresolved with pain medication .He underwent a CT scan of 
chest to Rule out pulmonary embolism and found to have left lung 
atelectasis and pleural effusions.  He suddenly became more 
tachypneic with soft blood pressures requiring BIPAP.A dose of 
lasix was given with good response. Based on such events 
decision is made to admit him for further management

 
Past Medical History:
Coronary artery bypass graft x4, left internal mammary artery to 
left anterior descending artery, saphenous vein graft to right 
coronary artery, and saphenous vein sequential graft to ramus 
and obtuse marginal arteries.
Hypertension
Hyperlipidemia
COPD
Asbestosis exposure
Carotid artery disease s/p left CEA in ___
PAD s/p aorto-bifemoral bypass grafting ___
Anemia
Insomnia
Recurrent transitional bladder cancer s/p TURP x 3
Restless leg syndrome
Prior heavy ETOH use
Old TB- s/p treatment with INH in ___
Depression
Anxiety
Past Surgical History:
Emergent abdominal surgery after a traumatic accident in ___ 
Cataract surgery, bilateral
Left CEA in ___
Aorto-Bifemoral bypass grafting ___
TURP x3

 
Social History:
___
Family History:
Premature coronary artery disease- Father had a
"hole in his heart" died at age ___ from lung disease and
alcoholism. Mother died at age ___ from TB

 
Physical Exam:
Pulse:108  Resp:12  O2 sat:98 on BIPAP on 40% Fio2
B/P  ___
Height:5'7"   Weight:82.5 kg

General: no distress
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs bilateral crackles
Heart: RRR [x]  Irregular []  Murmur [] grade ______
Abdomen: Soft [x] distended [x] non-tender [x]  bowel sounds
+
[x]
Extremities: Warm [x], well-perfused [x]  Edema [X] _____
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:2+   Left:2+
DP           Right:2+   Left:2+
___           Right:2+   Left:2+
Radial       Right:2+   Left:2+

Carotid Bruit        Right: none   Left:none

 
Pertinent Results:
ECHO ___ 
The left atrial volume index is severely increased. Left 
ventricular wall thicknesses and cavity size are normal. There 
is moderate regional left ventricular systolic dysfunction with 
akinesis of the inferior, inferolateral and basal inferoseptal 
walls. The remaining segments contract normally (LVEF = ___. 
Right ventricular chamber size and free wall motion are normal. 
The aortic valve leaflets (3) appear structurally normal with 
good leaflet excursion and no aortic stenosis or aortic 
regurgitation. No aortic regurgitation is seen. Mild (1+) mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion. 
IMPRESSION: Moderate regional left ventricular systolic 
dysfunction, c/w CAD. Mild mitral regurgitation.  

CT scan ___
1. No pulmonary embolism. 
2. Postoperative changes in the mediastinum including a small 
pericardial  3. Large left and small right nonhemorrhagic 
pleural effusions with adjacent atalectasis. 4. Moderate 
centrilobular emphysema and mild pulmonary edema. 5. New 7 mm 
nodule within a cystic lucency in the right middle lobe, which 
appears contiguous with an adjacent vessel, possibly 
representing a venous varix. 

___ 03:00PM BLOOD WBC-6.2 RBC-3.31* Hgb-8.8* Hct-27.7* 
MCV-84 MCH-26.6 MCHC-31.8* RDW-15.4 RDWSD-46.9* Plt ___
___ 03:00PM BLOOD Glucose-119* UreaN-8 Creat-0.8 Na-125* 
K-4.2 Cl-94* HCO3-28 AnGap-7*
___ 06:20AM BLOOD WBC-6.4 RBC-3.15* Hgb-8.3* Hct-26.8* 
MCV-85 MCH-26.3 MCHC-31.0* RDW-15.5 RDWSD-47.6* Plt ___
___ 06:20AM BLOOD Glucose-93 UreaN-15 Creat-0.8 Na-128* 
K-3.5 Cl-92* HCO3-29 AnGap-11
 
Brief Hospital Course:
Mr. ___ was admitted to the ___ on ___ for further 
management of his dyspnea/hypercarbia respiratory failure and 
pain. His pain was relieved with analgesics. BIPAP with good 
effect. A CT scan ruled out a pulmonary embolism but did reveal 
a new RM lobe lung nodule which is recommended to be re 
evaluated in 3 months. He was diuresed with IV Lasix. He 
remained hemodynamically stable. On HD3 his vitals were stable, 
he was not longer short of breath, pain was well controlled and 
he was 94% on room air, ambulating with assistance. He was 
discharged to ___ on the ___ on HD3 in stable 
condition. All follow up appointments were arranged. CXR to be 
done at follow up appointment with Dr ___.  Follow up 
appointment with cardiologist Dr. ___ on ___ at 10:45 
AM.
 
Medications on Admission:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
2. Aspirin EC 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Pramipexole 0.5 mg PO BID 
5. Simvastatin 10 mg PO QPM 
6. Terazosin 1 mg PO QHS 
7. Tiotropium Bromide 1 CAP IH BID 
8. Acetaminophen 650 mg PO Q4H:PRN pain, fever 
9. Carvedilol 25 mg PO BID 
10. FoLIC Acid 1 mg PO DAILY 
11. Furosemide 40 mg PO DAILY Duration: 10 Days 
12. Losartan Potassium 25 mg PO DAILY 
13. Multivitamins 1 TAB PO DAILY 
14. Ranitidine 150 mg PO BID 
15. Tamsulosin 0.4 mg PO QHS 
16. Thiamine 100 mg PO DAILY 
17. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0
18. ALPRAZolam 0.125 mg PO BID:PRN anxiety 
RX *alprazolam 0.25 mg 0.5 (One half) tablet(s) by mouth twice a 

day Disp #*40 Tablet Refills:*0
19. Cyanocobalamin ___ mcg PO DAILY 
20. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
INHALATION BID 

 
Discharge Medications:
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN COPD 
2. Aspirin EC 81 mg PO DAILY 
3. Carvedilol 3.125 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
6. FoLIC Acid 1 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Furosemide 40 mg PO BID Duration: 14 Days 
9. Potassium Chloride 20 mEq PO BID Duration: 14 Days 
Hold for K > 4.5 
10. Pramipexole 0.5 mg PO BID 
11. Ranitidine 150 mg PO BID 
12. Simvastatin 10 mg PO QPM 
13. Thiamine 100 mg PO DAILY 
14. Tiotropium Bromide 1 CAP IH DAILY 
15. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
RX *tramadol [Ultram] 50 mg 1 tablet(s) by mouth Q 4 hours Disp 
#*60 Tablet Refills:*0
16. Tamsulosin 0.4 mg PO QHS 
17. Terazosin 1 mg PO QHS 
18. Losartan Potassium 25 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease
Hypertension
Hyperlipidemia
COPD
Asbestosis exposure
Carotid artery disease s/p left CEA in ___
PAD s/p aorto-bifemoral bypass grafting ___
Anemia
Insomnia
Recurrent transitional bladder cancer s/p TURP x 3
Restless leg syndrome
Prior heavy ETOH use
Old TB- s/p treatment with INH in ___
Depression
Anxiety
Past Surgical History:
Emergent abdominal surgery after a traumatic accident in ___ 
Cataract surgery, bilateral
Left CEA in ___
Aorto-Bifemoral bypass grafting ___
TURP x3

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Edema

 
Discharge Instructions:
1) Please shower daily including washing incisions gently with 
mild soap, no baths or swimming until cleared by surgeon. Look 
at your incisions daily for redness or drainage.
2) Please NO lotions, cream, powder, or ointments to incisions. 
3) Each morning you should weigh yourself and then in the 
evening take your temperature, these should be written down on 
the chart provided.
4) No driving for approximately one month and while taking 
narcotics. Driving will be discussed at follow up appointment 
with surgeon when you will likely be cleared to drive. 
5) No lifting more than 10 pounds for 10 weeks
6) Please call with any questions or concerns ___
7) Please arrange to have a repeat CT scan in 3 months to follow 
up on new R middle lobe lung nodule
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___